US07425568B2
2,6-Dinitro-1-(2-phenylchroman-6-yloxy)-4-trifluoromethylbenzene was prepared as described for 2-nitro-1-(2-phenylchroman-6-yloxy)-benzene in Example 29(a) except that 6-hydroxyflavane (0.453 g) was used in 10 ml of dry DMSO under nitrogen. Also KI (0.498 g) and KOH (0.224 g) and 4-chloro-3,5-dinitro benzotrifluoride (0.541 mg) were added in similar manner. 1H-NMR (400 MHz; d6-DMSO): δ 8.87 (s, 2H), 7.46-7.29 (m, 5H), 6.89-6.75 (m, 4H), 5.09 (dd, 1H, J=10.3 Hz, J=2.1 Hz), 2.98-2.85 (m, 1H), 2.75-2.62 (m, 1H), 2.19-2.08 (m, 1H), 2.03-1.88 (m, 1H).

reactant | 2-nitro-1-(2-phenylchroman-6-yloxy)-benzene | [N+](=O)([O-])C1=C(C=CC=C1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C21H17NO4
reactant | 6-hydroxyflavane | 0.453 g | OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C15H14O2
reactant | KOH | 0.224 g | [OH-].[K+]
reactant | 4-chloro-3,5-dinitro benzotrifluoride | 0.541 mg | ClC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C7H2ClF3N2O4
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 2,6-Dinitro-1-(2-phenylchroman-6-yloxy)-4-trifluoromethylbenzene | [N+](=O)([O-])C1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C22H15F3N2O6
